US06734303B2
(b) Preparation of 2-bromo-3,4-dimethoxybenzonitrile
A mixture of hydroxylamine hydrochloride (1.42 g, 20. 4 mmol) and triethylamine (5.7 ml, 40.8 mmol) in acetonitrile (10 ml) was stirred at room temperature for 15 minutes before a solution of 2-bromo-3,4-dimethoxybenzaldehyde (5.0 g, 20.4 mmol) in acetonitrile (40 ml) was added over 40 minutes. The resulting mixture was stirred overnight before a fifth of the resulting solution was charged with methanesulfonyl chloride (0.74 ml, 10 mmol total) and triethylamine (0.6 ml, 4.3 mmol total) portionwise over 6 hours. The mixture was stirred overnight, quenched with water, extracted with ethyl acetate, dried over MgSO4 and concentrated in-vacuo to give 0.90 g of the subtitle product (93%).

reactant | hydroxylamine hydrochloride | 4 mmol, 1.42 g | Cl.NO
reactant | triethylamine | 40.8 mmol, 5.7 ml | C(C)N(CC)CC | C6H15N
reactant | 2-bromo-3,4-dimethoxybenzaldehyde | 20.4 mmol, 5.0 g | BrC1=C(C=O)C=CC(=C1OC)OC | C9H9BrO3
reactant | methanesulfonyl chloride | 10 mmol, 0.74 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 4.3 mmol, 0.6 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
product | 2-bromo-3,4-dimethoxybenzonitrile | 0.90 g, 93% | BrC1=C(C#N)C=CC(=C1OC)OC | C9H8BrNO2
